US05864039
4-Amino-N-(1-(3-aminopropyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide (2 g) as starting compound and 3,4-dichlorobenzaldehyde (0.99 g) were reacted and treated in the same manner as in Example 121 to give 2.7 g of 4-amino-5-chloro-N-((1-(3-(3,4-dichlorobenzylamino)propyl)piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-N-(1-(3-aminopropyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 2 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCN)C=C1Cl)OC | C17H27ClN4O2
reactant | 3,4-dichlorobenzaldehyde | 0.99 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
product | 4-amino-5-chloro-N-((1-(3-(3,4-dichlorobenzylamino)propyl)piperidin-4-yl)methyl)-2-methoxybenzamide | 2.7 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCNCC2=CC(=C(C=C2)Cl)Cl)C=C1Cl)OC | C24H31Cl3N4O2
